US08372864B2
7.1.1: 2-(2-Bromophenyl)-N-(2-ethoxyethyl)ethanamine
3.5 g of 2-(2-bromophenyl)ethyl methanesulfonate, 5.59 g of 2-ethoxyethanamine, 8.67 g of potassium carbonate and 70 cm3 of tetrahydrofuran are stirred under the reflux of the solvent under an inert atmosphere for 48 h. The heating is stopped, then the reaction mixture is filtered. The insoluble material is washed twice with ethyl acetate. The filtrate is concentrated using a rotary evaporator under reduced pressure (5 kPa). The product obtained is purified by flash chromatography over silica (column: 330 g; particle size: 20-40 μm, spherical; eluent: 100% ethyl acetate to 90% ethyl acetate/10% methanol gradient). After concentrating the fractions under reduced pressure, 2.45 g of 2-(2-bromophenyl)-N-(2-ethoxyethyl)ethanamine are obtained in the form of a yellow oil.

reactant | 2-(2-bromophenyl)ethyl methanesulfonate | 3.5 g | CS(=O)(=O)OCCC1=C(C=CC=C1)Br | C9H11BrO3S
reactant | 2-ethoxyethanamine | 5.59 g | C(C)OCCN | C4H11NO
reactant | potassium carbonate | 8.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 70 cm3 | O1CCCC1 | C4H8O
product | 2-(2-Bromophenyl)-N-(2-ethoxyethyl)ethanamine | BrC1=C(C=CC=C1)CCNCCOCC | C12H18BrNO
